US04347253
EXAMPLE 2b: 2-Chloroethyl 2-(2,6-dimethylphenyl)-hydrazinecarboxylate
A mixture of 17.7 g (0.1 mol) 2,6-dimethylphenylhydrazine hydrochloride, 21.2 g (0.2 mol) sodium carbonate in 50 ml water and 50 ml xylene are stirred for 30 minutes at room temperature, then cooled to 5°. 14.3 g (0.1 mol) chloroformic acid 2-chloroethylester is then added over a period of 1 hour, the temperature being maintained at 5°. The mixture is stirred at 5° for another hour, at the end of which 100 ml water are added, the precipitate thus formed filtered off, washed with water and dried. Further work-up as in Example 1b.

reactant | 2,6-dimethylphenylhydrazine hydrochloride | 0.1 mol, 17.7 g | Cl.CC1=C(C(=CC=C1)C)NN
reactant | sodium carbonate | 0.2 mol, 21.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroformic acid 2-chloroethylester | 0.1 mol, 14.3 g | ClCCOC(=O)Cl | C3H4Cl2O2
solvent | water | 50 ml | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 100 ml | O | H2O
product | 2-Chloroethyl 2-(2,6-dimethylphenyl)-hydrazinecarboxylate | CC1=C(C(=CC=C1)C)NNC(=O)OCCCl | C11H15ClN2O2
